US07435735B2
Step 4: N-[(Benzyloxy)carbonyl]-N-[2-(methylamino)propyl]glycine
To a solution of N-[(benzyloxy)carbonyl]-N-(2-oxopropyl)glycine (2.29 g, 8.63 mmol) in CH2Cl2 (44 mL) were added a solution of methylamine hydrochloride (1.52 g, 22.45 mmol) and Et3N (3.13 mL, 22.45 mmol) in CH2Cl2, acetic acid (0.99 mL, 17.27 mmol), and sodium triacetoxyborohydride (5.12 g, 24.17 mmol). The suspension was stirred at room temperature overnight and concentrated in vacuo to afford the product.

reactant | N-[(benzyloxy)carbonyl]-N-(2-oxopropyl)glycine | 8.63 mmol, 2.29 g | C(C1=CC=CC=C1)OC(=O)N(CC(=O)O)CC(C)=O | C13H15NO5
reactant | methylamine hydrochloride | 22.45 mmol, 1.52 g | Cl.CN
reactant | Et3N | 22.45 mmol, 3.13 mL | CCN(CC)CC | C6H15N
reactant | acetic acid | 17.27 mmol, 0.99 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 24.17 mmol, 5.12 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 44 mL | C(Cl)Cl | CH2Cl2
product | N-[(Benzyloxy)carbonyl]-N-[2-(methylamino)propyl]glycine | C(C1=CC=CC=C1)OC(=O)N(CC(=O)O)CC(C)NC | C14H20N2O4
